US07816371B2
d. (R)-N-(6-Cyclopropyl-2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamide
A round bottom flask was charged with (R)-2-(6-cyclopropyl-5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate (23 mg, 0.000046 mol), potassium carbonate (9.4 mg, 0.000068 mol) and methanol (2 mL, 0.05 mol) and 2 drops of water and the reaction was stirred for 30 minutes. The reaction mixture was then filtered over celite and the solvent removed under reduced pressure. The residue was then purified by preparative HPLC (reverse phase) to get the product as a sticky mass. MS m/z=463.5 (M+H). 1H NMR (400 MHz; Acetone-d) δ 9.02 (s, 1H), 8.03 (d, J=8.15 Hz, 1H), 7.61 (t, J=7.52 Hz, 1H), 7.42 (d, J=5.01 Hz, 1H), 7.39 (s, 1H), 7.24 (d, J=7.52 Hz, 1H), 6.91 (d, J=8.15 Hz, 1H), 6.36 (d, J=8.15 Hz, 1H), 4.99-4.97 (m, 1H), 3.93 (s, 2H), 3.68-3.64 (m, 2H), 2.04-1.94 (m, 1H), 1.24 (d, J=7.32 Hz, 3H), 0.81-0.77 (m, 2H), 0.60-0.56 (m, 2H).

reactant | (R)-2-(6-cyclopropyl-5-(2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.000046 mol, 23 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O)C1CC1)=O | C26H24F4N2O4
reactant | potassium carbonate | 0.000068 mol, 9.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 0.05 mol, 2 mL | CO | CH4O
catalyst | water | 2 drops | O | H2O
product | (R)-N-(6-Cyclopropyl-2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(3-fluoro-4-(trifluoromethyl)phenyl)acetamide | C1(CC1)C=1C(=C2C=CN(C(C2=CC1)=O)[C@@H](CO)C)NC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O | C24H22F4N2O3
